US05028613
A solution of 10 mg of isobatzelline A in 5 ml of dioxane was stirred with 10 mg of DDQ at room temperature overnight. The resulting product was purified by HPLC (LiChrosorb NH2, 3% MeOH-CHCl3) to give 6 mg of isobatzelline D.

reactant | isobatzelline A | 10 mg | CN1C2=C3C(=C1SC)CCN=C3C(=C(C2=O)N)Cl | C12H12ClN3OS
reactant | DDQ | 10 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | isobatzelline D | 6 mg | CN1C2=C3C(=C1SC)C=CN=C3C(=C(C2=O)N)Cl | C12H10ClN3OS
